US08802704B2
Step 1: tert-butyl 3-[(3-cyanobenzyl)amino]propanoate
To a stirred solution of β-alanine tert-butyl ester hydrochloride (7.1 g, 39.2 mmol) and triethylamine (14.2 mL, 107 mmol) in dry acetonitrile (100 mL) was added 3-(bromomethyl)benzonitrile (7.0 g, 35.7 mmol) in portions over 10 minutes at 0° C. After being stirred at RT for 5 hours, the reaction mixture was diluted with water (100 mL) and extracted with dichloromethane (2×100 mL) The organic layers were combined, dried using sodium sulphate and concentrated under reduced pressure. The residue was purified by flash chromatography affording the title compound as a pale yellow liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.75 (s, 1H), 7.66 (m, 2H), 7.50 (m, 1H), 3.71 (s, 2H), 2.64 (t, 2H), 2.32 (m, 2H), 1.37 (s, 9H).

reactant | β-alanine tert-butyl ester hydrochloride | 39.2 mmol, 7.1 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | triethylamine | 107 mmol, 14.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(bromomethyl)benzonitrile | 35.7 mmol, 7.0 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | tert-butyl 3-[(3-cyanobenzyl)amino]propanoate | C(#N)C=1C=C(CNCCC(=O)OC(C)(C)C)C=CC1 | C15H20N2O2
